US07732456B2
4-[(5-Chloro-2-pyridinyl)methoxy]-1-(4-{[(2S)-1-ethyl-2-pyrrolidinyl]-methoxy}phenyl)-1H-pyridin-2-one
Example 123 was repeated except that 4-[(5-chloro-2-pyridinyl)methoxy]-1-4-{(3R)-3-pyrrolidinyl]oxy}phenyl)-2H-pyridin-2-one was replaced with 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-{[(2S)-2-pyrrolidinyl]methoxy}phenyl)-1H-pyridin-2-one, to provide the title compound.

reactant | 2H-pyridin-2-one | N1C(C=CC=C1)=O | C5H5NO
reactant | 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-{[(2S)-2-pyrrolidinyl]methoxy}phenyl)-1H-pyridin-2-one | ClC=1C=CC(=NC1)COC1=CC(N(C=C1)C1=CC=C(C=C1)OC[C@H]1NCCC1)=O | C22H22ClN3O3
product | 4-[(5-Chloro-2-pyridinyl)methoxy]-1-(4-{[(2S)-1-ethyl-2-pyrrolidinyl]-methoxy}phenyl)-1H-pyridin-2-one | ClC=1C=CC(=NC1)COC1=CC(N(C=C1)C1=CC=C(C=C1)OC[C@H]1N(CCC1)CC)=O | C24H26ClN3O3
